US09359362B2
(7R)-2-[(Cyanomethyl)amino]-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile
Under an atmosphere of argon protective gas, benzyl {(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}(cyanomethyl)-carbamate (10.0 mg, 17 μmol) was dissolved in degassed methanol (3 ml). After addition of palladium on activated carbon (10%; 2 mg), the mixture was hydrogenated under a hydrogen atmosphere (˜1 atm) at RT for 0.5 h. The reaction mixture was then filtered, the filtrate was concentrated under reduced pressure and the residue was purified by preparative HPLC (Kromasil C18 column, 50×20 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (7.4 mg, 96% of theory).

reactant | benzyl {(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}(cyanomethyl)-carbamate | 17 μmol, 10.0 mg | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)N(C(OCC2=CC=CC=C2)=O)CC#N)C2=CC(=CC=C2)C(F)(F)F)C | C31H21F3N8O2
solvent | methanol | 3 ml | CO | CH4O
catalyst | palladium on activated carbon | 2 mg | [Pd] | Pd
product | (7R)-2-[(Cyanomethyl)amino]-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | C(#N)CNC1=NN2C(N(C(=C([C@H]2C2=CC=C(C=C2)C#N)C#N)C)C2=CC(=CC=C2)C(F)(F)F)=N1 | C23H15F3N8
